US04585774
5.00 Grams of o-carbamoyl-α-chloroacetanilide, 8.09 g of 3,4-dimethoxybenzoylpiperazine monohydrochloride, 8.31 g of triethylamine and 30 g of acetonitrile were mixed together and the mixture was stirred at 50° C. for 5 hours. Then the reaction mixture was ice-cooled, and the crystals formed were removed by filtration and the filtrate obtained was concentrated to dryness. The residue obtained was extracted with chloroform--1N sodium hydroxide aqueous solution, and the chloroform layer was washed with water, dried then chloroform was removed by distillation. The residue obtained was purified by a silica gel column chromatography and the desired product was converted into a hydrochloride by using hydrochloric acid-ethanol, then recrystallized from water-acetone to obtain 7.43 g of o-carbamoyl-α-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]acetanilide monohydrochloride monohydrate in the form of colorless needle-like crystals. Melting point: 122.0°-125.0° C. (decomposed).

reactant | o-carbamoyl-α-chloroacetanilide | C(N)(=O)C1=C(NC(CCl)=O)C=CC=C1 | C9H9ClN2O2
reactant | 3,4-dimethoxybenzoylpiperazine monohydrochloride | 8.09 g | Cl.COC=1C=C(C(=O)N2CCNCC2)C=CC1OC
reactant | triethylamine | 8.31 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 30 g | C(C)#N | C2H3N
product | o-carbamoyl-α-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]acetanilide monohydrochloride monohydrate | 7.43 g | O.Cl.C(N)(=O)C1=C(NC(CN2CCN(CC2)C(C2=CC(=C(C=C2)OC)OC)=O)=O)C=CC=C1 | InChI=1S/C22H26N4O5.ClH.H2O/c1-30-18-8-7-15(13-19(18)31-2)22(29)26-11-9-25(10-12-26)14-20(27)24-17-6-4-3-5-16(17)21(23)28;;/h3-8,13H,9-12,14H2,1-2H3,(H2,23,28)(H,24,27);1H;1H2
